US06548499B1
(6,7-Dichloro-3-pyridin-2-yl-quinoxalin-2-yl)-(3-morpholin-4-yl-propyl)-amine
A solution of 2,6,7-trichloro-3-pyridin-2-yl-quinoxaline (0.50 g) and N-(3-aminopropyl)-morpholine (0.46 g) in toluene (25 mL) was refluxed under nitrogen for 16 hours. After refluxing, the reaction mixture was cooled, filtered, and concentrated under vacuum. The residue was purified by flash chromatography (silica gel, 1:9 methanol/dichloromethane) to give a yellow solid. Recrystallization from methanol and water gave the product as yellow crystals (0.56 g); mp 119-121° C.

reactant | 2,6,7-trichloro-3-pyridin-2-yl-quinoxaline | 0.50 g | ClC1=NC2=CC(=C(C=C2N=C1C1=NC=CC=C1)Cl)Cl | C13H6Cl3N3
reactant | N-(3-aminopropyl)-morpholine | 0.46 g | NCCCN1CCOCC1 | C7H16N2O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | (6,7-Dichloro-3-pyridin-2-yl-quinoxalin-2-yl)-(3-morpholin-4-yl-propyl)-amine | 0.56 g | ClC=1C=C2N=C(C(=NC2=CC1Cl)NCCCN1CCOCC1)C1=NC=CC=C1 | C20H21Cl2N5O
